US05498795
Ethyl 4-iodobenzoate (Compound A)
To a suspension of 24.9 g (100.4 mmol) of 4-iodobenzoic acid in 46.25 g (58.9 ml, 1.0 mol) of ethanol (100%) was added 3.0 ml of conc. sulfuric acid. The resulting mixture was refluxed for 60 minutes, and then distilled until a clear, homogeneous solution was obtained. The solution was allowed to cool to room temperature, partitioned between 250 ml of water and 250 ml of pentane, and the layers were separated. The aqueous phase was washed with 3×100 ml-portions of pentane. All organic phases were combined, washed with brine solution, dried over MgSO4, filtered and concentrated in vacuo to a dark yellow oil. Purification by flash chromatography (silica, 10% ethyl acetate in hexane) yielded the title compound as a clear, light yellow oil. PMR (CDCl3): d 1.39 (3H, t, J=7.2 Hz), 4.37 (2H, q, J=7.2 Hz), 7.73-7.82 (4H, m).

reactant | 4-iodobenzoic acid | 100.4 mmol, 24.9 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | ethanol | 1.0 mol, 58.9 ml, 46.25 g | C(C)O | C2H6O
reactant | sulfuric acid | 3.0 ml | S(O)(O)(=O)=O | H2O4S
product | Ethyl 4-iodobenzoate | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
